US07727988B2
1-(3,3-Diethoxy-butyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carbonitrile (Prep54)
(2-Cyano-3-ethoxy-acryloyl)-carbamic acid ethyl ester (Prep32, 500 mg, 2.3 mmol) was suspended in water (20 mL) and 3,3-diethoxybutylamine (816 μl, 4.7) was added and the mixture warmed at 80° C. for 10 minutes. The reaction mixture was lyophilized and the residue was purified by flash chromatography with petroleum ether-ethyl acetate (1-1) to give 553 mg of the title compound as a white solid (83% yield).

reactant | (2-Cyano-3-ethoxy-acryloyl)-carbamic acid ethyl ester | 2.3 mmol, 500 mg | C(C)OC(NC(C(=COCC)C#N)=O)=O | C9H12N2O4
reactant | 3,3-diethoxybutylamine | 816 μl | C(C)OC(CCN)(C)OCC | C8H19NO2
solvent | water | 20 mL | O | H2O
product | 1-(3,3-Diethoxy-butyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carbonitrile | 553 mg, 83% yield | C(C)OC(CCN1C(NC(C(=C1)C#N)=O)=O)(C)OCC | C13H19N3O4
